US05004745
The (RS)-1-cyclopropyl-3-ethoxycarbonyl-7,9-difluoro-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine was prepared under the conditions of Example 35 but starting from 1.8 g of 1-cyclopropyl-3-ethoxycarbonyl-7,8,9-trifluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine and 2 g of (RS)-2-methylpiperazine. After recrystallizing once from 15 cm3 of propan-2-ol and 15 cm3 of diisopropyl ether, 1.9 g of (RS)-1-cyclopropyl-3-ethoxycarbonyl-7,9-difluoro-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine are obtained in the form of a yellow solid melting at 190° C.

reactant | 1-cyclopropyl-3-ethoxycarbonyl-7,8,9-trifluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 1.8 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C(=C(C(=C3)F)F)F)=O)C(=O)OCC | C18H13F3N2O3
reactant | (RS)-2-methylpiperazine | 2 g | CC1NCCNC1 | C5H12N2
product | (RS)-1-cyclopropyl-3-ethoxycarbonyl-7,9-difluoro-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C(=C(C(=C3)F)N3CC(NCC3)C)F)=O)C(=O)OCC | C23H24F2N4O3
